US08791255B2
The product is prepared according to the procedure described in example 68, using 200 mg of sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 210 mg of 3-iodo-4-fluoroaniline. 186 mg of N-(3-iodo-4-fluorophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 200 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)[O-].[Na+]
reactant | 3-iodo-4-fluoroaniline | 210 mg | IC=1C=C(N)C=CC1F | C6H5FIN
product | N-(3-iodo-4-fluorophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 186 mg | IC=1C=C(C=CC1F)NC(CC=1N(C(C=C(N1)N1CCOCC1)=O)C)=O | C17H18FIN4O3
